US20010044454A1
Through a solution of N-t-butoxycarbonyl-3-(3,4-dichlorophenyl)-3-hydroxy piperidine (150 mg, 0.44 mmol) in ethyl acetate (5 ml) cooled to 0° C. is bubbled HCl (g) for 5 min. The reaction mixture is stirred at 25° C. until reaction completion. The reaction mixture is concentrated in vacuo and flushed with ethyl acetate/concentrated 3 times to provide 3-(3,4-dichlorophenyl)-3-hydroxy piperidine hydrochloride which is converted without further purification to 3-(3,4-dichlorophenyl)-3-hydroxy piperidine-1-carboxylic acid {4-[(2,2-dimethyl-propionylamino)-methyl]-phenyl}-amide using N-(4-isocyanato-benzyl)-2,2-dimethyl-propionamide as described in example 1a.

reactant | N-t-butoxycarbonyl-3-(3,4-dichlorophenyl)-3-hydroxy piperidine | 0.44 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)(O)C1=CC(=C(C=C1)Cl)Cl | C16H21Cl2NO3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3,4-dichlorophenyl)-3-hydroxy piperidine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1(CNCCC1)O | InChI=1S/C11H13Cl2NO.ClH/c12-9-3-2-8(6-10(9)13)11(15)4-1-5-14-7-11;/h2-3,6,14-15H,1,4-5,7H2;1H
